US06825198B2
Preparation of Intermediate 4-[4-(3-Chloro-benzylamino)-pyrimidin-2-yl]-piperazine-1-carboxylic Acid Tert-Butyl Ester (I-4a):
A mixture of 4-(4-chloro-pyrimidin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester I-2a (100 mg, 0.33 mmol), 3-chlorobenzylamine (0.65 mL, 5.3 mmol) and potassium carbonate (71 mg, 0.67 mmol) in ethanol (5 mL) was heated at reflux for 24 h. The reaction mixture was cooled to room temperature, poured into H2O (15 mL) and extracted with EtOAc (2×18 mL). The combined organic extracts were washed with H2O (2×10 mL), brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by chromatography using 40% EtOAc in hexane as an eluting solvent to afford the title compound I-4a (93 mg) as a colorless oil.

reactant | 4-(4-chloro-pyrimidin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)Cl | C13H19ClN4O2
reactant | 3-chlorobenzylamine | 5.3 mmol, 0.65 mL | ClC=1C=C(CN)C=CC1 | C7H8ClN
reactant | potassium carbonate | 0.67 mmol, 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 15 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-[4-(3-Chloro-benzylamino)-pyrimidin-2-yl]-piperazine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)NCC1=CC(=CC=C1)Cl | C20H26ClN5O2
